US05457201
6-Chloro-4-cyclopropyl-4-ethynyl-3,4-dihydroquinazolin-2(1H)-one
A solution of 1.4 g (4.11 mmol) of 6-chloro-4-cyclopropyl-4-ethynyl-3,4-dihydro-1-(p-methoxybenzyl)quinazolin-2(1H)-one in 5 mL of CH2Cl2 was treated with 10 mL of trifluoroacetic acid (Aldrich) under N2 overnight at r.t. The reaction was concentrated by rotovap under reduced pressure and the residue partitioned between ethyl acetate and 10% citric acid. The organic layer was washed with water, brine, dried over MgSO4 and the solvents removed to give an oil which was flash chromatographed on SiO2 using 95:5 CHCl3 --CH3OH to give a foam. Trituration of this material with ether gave 720 mg (80%) of the title compound as a colorless solid.

reactant | 6-chloro-4-cyclopropyl-4-ethynyl-3,4-dihydro-1-(p-methoxybenzyl)quinazolin-2(1H)-one | 4.11 mmol, 1.4 g | ClC=1C=C2C(NC(N(C2=CC1)CC1=CC=C(C=C1)OC)=O)(C#C)C1CC1 | C21H19ClN2O2
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ether | CCOCC | C4H10O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-Chloro-4-cyclopropyl-4-ethynyl-3,4-dihydroquinazolin-2(1H)-one | 720 mg, 80% | ClC=1C=C2C(NC(NC2=CC1)=O)(C#C)C1CC1 | C13H11ClN2O
